US07642264B2
5-{1-[4-Difluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidin-2-yl]-1H-imidazol-4-yl}-pyridin-2-ylamine
The title compound was prepared from 2-(4-bromo-imidazol-1-yl)-4-difluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidine (example E.7) (0.21 g, 0.5 mmol) and commercially available 2-amino-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (0.14 g, 0.64 mmol) according to the general procedure VI. Obtained as a yellow solid (0.031 g, 7%). MS (ISP) 433.3 [(M+H)+]; mp 253.5° C.

reactant | 2-(4-bromo-imidazol-1-yl)-4-difluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidine | 0.5 mmol, 0.21 g | BrC=1N=CN(C1)C1=NC(=CC(=N1)C(F)F)C1=CC=C(C=C1)C(F)(F)F | C15H8BrF5N4
reactant | 2-amino-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 0.64 mmol, 0.14 g | NC1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C11H17BN2O2
product | 5-{1-[4-Difluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidin-2-yl]-1H-imidazol-4-yl}-pyridin-2-ylamine | FC(C1=NC(=NC(=C1)C1=CC=C(C=C1)C(F)(F)F)N1C=NC(=C1)C=1C=CC(=NC1)N)F | C20H13F5N6
